US08614215B2
Intermediate 101: 4-{[(3-chloroquinoxalin-2-yl)amino]sulfonyl}-N,N-dimethylbenzamide
2,3-Dichloroquinoxaline (3.5 g; 17.6 mmol; 1 eq), 4-(aminosulfonyl)-N,N-dimethylbenzamide (4 g; 17.6 mmol; 1 eq) and anhydrous K2CO3 (2.4 g; 17.6 mmol; 1 eq) are taken up in DMA (35 mL) and the resulting suspension is heated at 135° C. for 1 h. After evaporation of the DMA under reduced pressure, the reaction is stopped by addition of water (20 mL) then the suspension is acidified with a 25% aqueous solution of citric acid (70 mL). After overnight standing at 4° C., the yellow precipitate is filtered off, washed several times with water until pH=6 and dried under vacuum at 40° C. overnight affording 5.73 g of a yellow solid. It is taken up in EtOH (25 mL) and the suspension is heated for a few minutes. The precipitate is filtered off and washed twice with EtOH (10 mL) then dried under vacuum at 40° C. overnight to afford 3.96 g (57.6%) of the title compound as a yellow solid. 1H NMR (DMSO-d6) δ 8.27-8.24 (d, J=8.3 Hz, 2H), 7.91 (t, J=7.2 Hz, 2H), 7.79-7.74 (m, 2H), 7.73-7.66 (m, 3H), 3.02 (s, 3H), 2.88 (s, 3H). HPLC (max plot) 95%; Rt 3.18 min. LC/MS: (ES+): 391.3, (ES−): 389.2.

reactant | 2,3-Dichloroquinoxaline | 17.6 mmol, 3.5 g, 1 eq | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | 4-(aminosulfonyl)-N,N-dimethylbenzamide | 17.6 mmol, 4 g, 1 eq | NS(=O)(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O3S
reactant | K2CO3 | 17.6 mmol, 2.4 g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 35 mL | CC(=O)N(C)C | C4H9NO
product | 4-{[(3-chloroquinoxalin-2-yl)amino]sulfonyl}-N,N-dimethylbenzamide | 5.73 g | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C17H15ClN4O3S
